US05106851
4-phenyl-1,2,3,4-tetrahydro-2-oxo-3-quinoline carboxylic acid, ethyl ester
80 g of concentrated sulphuric acid were dropped into a suspension of 4-phenyl-1,2,3,4-tetrahydro-2-oxo-3-quinoline carbonitrile (15 g) in ethanol (70 ml) and the whole was heated to reflux for 1 hour. After cooling the reaction mixture was poured onto ice and the aqueous layer was extracted with ethylacetate. After the usual workup 20 g of raw material were obtained. After purification by flash chromatography technique (Silicagel eluted with methylene dichloride/ethylacetate 85:15) 8.3 g of title compound were obtained. M.p. 178°-180° C.

reactant | sulphuric acid | 80 g | S(O)(O)(=O)=O | H2O4S
reactant | 4-phenyl-1,2,3,4-tetrahydro-2-oxo-3-quinoline carbonitrile | 15 g | C1(=CC=CC=C1)C1C(C(NC2=CC=CC=C12)=O)C#N | C16H12N2O
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | 4-phenyl-1,2,3,4-tetrahydro-2-oxo-3-quinoline carboxylic acid, ethyl ester | 20 g | C1(=CC=CC=C1)C1C(C(NC2=CC=CC=C12)=O)C(=O)OCC | C18H17NO3
